US09303033B2
To tert-butyl cyclopropyl(3-formyl-5-(3-hydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)carbamate (400 mg, 1.01 mmol) in methylene chloride (20 mL) was added TFA (10 mL). The reaction mixture was stirred at room temperature for 2 hours. The volatiles were removed by rotary evaporation and the residue was purified by silica gel chromatography (0%-40% EtOAc/hexanes) to provide 103 mg of 7-(cyclopropylamino)-5-(3hydroxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde. (35%). LCMS (M+1=295)

reactant | tert-butyl cyclopropyl(3-formyl-5-(3-hydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)carbamate | 1.01 mmol, 400 mg | C1(CC1)N(C(OC(C)(C)C)=O)C1=CC(=NC=2N1N=CC2C=O)C2=CC(=CC=C2)O | C21H22N4O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-(cyclopropylamino)-5-(3hydroxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 103 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC(=CC=C2)O | C16H14N4O2
